US04473395
Oxalyl chloride (11.52 gms) in dry methylene dichloride (10 ml) was slowly added to a suspension of 5-(p-chlorophenyl)-2-methyl-3-pyridine carboxylic acid (10 g) in dry methylene dichloride (50 ml). After standing for 1 hour at room temperature, the mixture was concentrated and the residue washed with dry diethyl ether, collected and dried to give 5-(p-chlorophenyl)-2-methyl-3-chlorocarbonylpyridine hydrochloride (11.95 g).

reactant | Oxalyl chloride | 11.52 gms | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(p-chlorophenyl)-2-methyl-3-pyridine carboxylic acid | 10 g | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C)C(=O)O | C13H10ClNO2
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-(p-chlorophenyl)-2-methyl-3-chlorocarbonylpyridine hydrochloride | 11.95 g | Cl.ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C)C(=O)Cl | InChI=1S/C13H9Cl2NO.ClH/c1-8-12(13(15)17)6-10(7-16-8)9-2-4-11(14)5-3-9;/h2-7H,1H3;1H
